US04902804
Preparation of ditridecyl 2-bromosuccinate
A mixture of 19.7 g. (0.1 mole) of bromosuccinic acid, 40.1 g. (0.2 mole) of tridecanol, 0.25 g. of p-toluenesulfonic acid and 200 ml. of toluene is refluxed for 7 hours, using a Dean-Stark trap. There is collected 3.6 ml. of H2O in the trap which is exactly the calculated amount for this reaction when completed.

reactant | bromosuccinic acid | 0.1 mole | BrC(C(=O)O)CC(=O)O | C4H5BrO4
reactant | tridecanol | 0.2 mole | C(CCCCCCCCCCCC)O | C13H28O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ditridecyl 2-bromosuccinate | BrC(C(=O)OCCCCCCCCCCCCC)CC(=O)OCCCCCCCCCCCCC | C30H57BrO4
